* LM358A opamp behavioral model for LTspice
.subckt LM358As in+ in- Vcc Vee Out
.param GBW=1e6 Avol=3e5 Slew=5e5 Vos=0
D1 B- in- Dp
D2 B+ in+ Dp
C1 Vcc B+ 1p
C2 Vcc B- 1p
D3 Vcc B+ Ib
D4 Vcc B- Ib
D5 Vee B+ Ds
D6 Vee B- Ds
.param Ro=1e6 Co={Avol/GBW/2/pi/Ro}
sA1 B- B+ Vee Vee Vee Vee x Vee OTA G={Avol/Ro} ref={Vos} Iout={slew*Co}
+ Rout={Ro} Cout={Co} Vhigh=50 Vlow=0
D7 x Vcc Di
S1 Out Vcc x Out Qn
S2 Vee Out Out x Qp
D8 Out Vee 50uA
C3 Out Vcc 5p
C4 Vee Out 5p
D9 Out Vcc Ds
D10 Vee Out Ds
I1 Vcc Vee TBL(0 0 2 0m3 32 0m6 35 1)
.model Dp d Is=1f Rs=1k Cjo=3p
.model Ib d Ilimit=20n Ron=1k Roff=5e7 Vfwd=0.5 Epsilon=0.15 noiseless
.model Ds d Ron=1 Epsilon=10 noiseless
.model Di d Ron=1 Epsilon=1m noiseless
.model Qn SW level=2 noiseless epsilon=0.5
+ Ron=20 Roff=1e8 Vt=1.1 Vh=-.3 Vser=1 ilimit=45m
.model Qp SW level=2 noiseless epsilon=0.5
+ Ron=40 Roff=1e7 Vt=0.55 Vh=-50m Vser=50m ilimit=35m
.model 50uA d Ilimit=50u Ron=500 Roff=1G Vfwd=10m Epsilon=10m noiseless
.ends LM358As
